US08314097B2
A. 6-(5-Methyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridin-5-yl)biphenyl-3-carbonitrile
To a solution of 6-(5,6,7,8-tetrahydroimidazo[1,5-a]pyridin-5-yl)biphenyl-3-carbonitrile (53 mg, 0.177 mmol) in THF (2 mL) at −40° C. is added LHMDS (1.0 M in THF, 0.27 mL, 0.27 mmol). The resulting brown solution is stirred at −30° C. for 0.5 h. To the reaction mixture is added methyl iodide (0.017 mL, 0.272 mmol) and the mixture is warmed up to ambient temperature and stirred overnight. The reaction mixture is quenched by saturated aqueous NH4Cl and the reaction is partitioned between CH2Cl2 and brine. The organic layer is washed with brine, dried over anhydrous Na2SO4 and concentrated to give the crude oil, which is subject to flash chromatography (silica gel) eluting with MeOH:CH2Cl2 to yield the desired compound. MS (ESI) m/z 314 (M+H).

reactant | 6-(5,6,7,8-tetrahydroimidazo[1,5-a]pyridin-5-yl)biphenyl-3-carbonitrile | 0.177 mmol, 53 mg | C=1N=CN2C1CCCC2C2=CC=C(C=C2C2=CC=CC=C2)C#N | C20H17N3
reactant | LHMDS | 0.27 mmol, 1.0 M, 0.27 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | methyl iodide | 0.272 mmol, 0.017 mL | CI | CH3I
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 6-(5-Methyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridin-5-yl)biphenyl-3-carbonitrile | CC1(CCCC=2N1C=NC2)C2=CC=C(C=C2C2=CC=CC=C2)C#N | C21H19N3
